US08404859B2
Preparation of 3-Cyano-5-methyl-thiophene-2-carboxylic acid methyl ester
A mixture of 3-Bromo-5-methyl-thiophene-2-carboxylic acid methyl ester (0.54 g, 2.3 mmol), and Copper cyanide (0.27 g, 2.99 mmol) in NMP (3 ml) was heated in a microwave at 220° C. for 30 min. The reaction mixture was cooled and diluted with EtOAc. The organic layer was washed with aqueous NH4OH, and brine, dried over sodium sulfate, filtered and evaporated. The solid residue was purified by column (0-20% EtOAc in hexane) to give 0.31 g (74%) white solid.

reactant | 3-Bromo-5-methyl-thiophene-2-carboxylic acid methyl ester | 2.3 mmol, 0.54 g | COC(=O)C=1SC(=CC1Br)C | C7H7BrO2S
reactant | Copper cyanide | 2.99 mmol, 0.27 g | [Cu](C#N)C#N
solvent | NMP | 3 ml | CN1CCCC1=O | C5H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-Cyano-5-methyl-thiophene-2-carboxylic acid methyl ester | 0.31 g, 74% | COC(=O)C=1SC(=CC1C#N)C | C8H7NO2S
